US08629167B2
(1R,2S)-1-(3-Chloro-4-cyano-2-methylphenylamino)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propan-2-yl butyrate
To a 50 mL round bottomed flask was added 2-chloro-4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile (200 mg, 0.508 mmol, pyridine (1 mL, 12.41 mmol) and methylene chloride (15 mL). Butyryl chloride (0.26 mL, 2.54 mmol) was then added dropwise and the mixture was stirred at room temperature for 18 h. The reaction mixture was then quenched with 10% aq HCl (15 mL) and methylene chloride (30 mL) was added. The phases were partitioned and the aqueous phase extracted with methylene chloride (30 mL) (×2). The combined organics were washed with a saturated solution of sodium hydrogen carbonate, dried (Na2SO4) and concentrated to furnish a yellow oil (0.139 g, 60%). 1H NMR (Acetone d6, 400 MHz) δ 8.23 (d, J=9 Hz, 2 H), 8.02 (d, J=9 Hz, 1 H), 7.54 (d, J=9 Hz, 1 H), 7.02 (d, J=9 Hz, 1 H), 5.74 (d, J=9 Hz, 1 H), 5.72-5.64 (m, 1H), 5.48 (dd, J=5 and 8 Hz, 1H), 2.37 (s, 3 H), 2.33-2.25 (m, 2H), 1.64-1.50 (m, 2 H), 1.47 (d, J=6 Hz, 3 H) and 0.92 (t, J=8 Hz, 3H).

reactant | 2-chloro-4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)C#N | C20H16ClN5O2
reactant | pyridine | 12.41 mmol, 1 mL | N1=CC=CC=C1 | C5H5N
reactant | Butyryl chloride | 2.54 mmol, 0.26 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S)-1-(3-Chloro-4-cyano-2-methylphenylamino)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propan-2-yl butyrate | 0.139 g, 60% | C(CCC)(=O)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C24H22ClN5O3
